US04342765
A solution of 2-guanidino-4-(3-aminocyclohexyl)thiazole (0.5 g.) in boiling acetonitrile (25 ml.) was treated with 1,1-di(methylthio)-2-nitroethylene (0.35 g.) and the mixture heated under reflux for 7 hours. The reaction mixture was evaporated to dryness and the residue crystallised from methanol to give 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-1-methylthio-2-nitroethylene (0.5 g.) as a yellow solid. The n.m.r. spectrum in d6 dimethylsulphoxide included signals at 1.2-2.2(m) 3.3(s), 3.7(m), 6.27(s), 6.65(s) and 6.69(br s)

reactant | 2-guanidino-4-(3-aminocyclohexyl)thiazole | 0.5 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)N | C10H17N5S
reactant | 1,1-di(methylthio)-2-nitroethylene | 0.35 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-[3-(2-guanidinothiazol-4-yl)cyclohexylamino]-1-methylthio-2-nitroethylene | 0.5 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC(=C[N+](=O)[O-])SC | C13H20N6O2S2
